US06900214B2
6-(3-Bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide
To a solution of 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine (2.92 g, 10 mmol) in THF (30 mL) was added 95% sodium hydride (0.30 g, 12 mmol). After gas evolution ceased, ethyl isocyanate (0.44 mL, 12 mmol) was added via syringe. The reaction mixture was stirred for 0.5 h, quenched with water and extracted twice with EtOAc. The combined extracts were washed with 0.5 N aqueous NaOH, with water and with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography (25% to 35% EtOAc/hexane) to give, after evaporation of solvent, 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide as a colorless solid (2.91 g; 80%): 1H NMR (CDCl3, 400 MHz) δ 8.65 (t, 3H, J=5.3 Hz), 7.91 (s, 1H), 7.39 (m, 1H), 7.35 (m, 1H), 7.21 (m, 1H), 7.15 (d, 1H, J=7.9 Hz), 6.24 (s, 1H), 3.25 (m, 2H), 2.10 (s, 3H), 1.10 (t, 3H, J=7.0 Hz); LC/MS (ES+) 363 (M+H+).

reactant | 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine | 10 mmol, 2.92 g | BrC=1C=C(C=CC1)C1C(=C(NC(N1)=O)C)C#N | C12H10BrN3O
reactant | sodium hydride | 12 mmol, 0.30 g | [H-].[Na+]
reactant | ethyl isocyanate | 12 mmol, 0.44 mL | C(C)N=C=O | C3H5NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(3-Bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide | C(C)NC(=O)N1C(NC(=C(C1C1=CC(=CC=C1)Br)C#N)C)=O | C15H15BrN4O2
